US08119627B2
Preparation of {4-[2-(4-chlorophenoxy)phenylamino]-piperidin-1-yl}-cyclopentylmethanone STX1685 C23H27ClN2O2, MW: 398.94
To a solution of 2-(4-chlorophenoxy)phenylamine (100 mg, 0.45 mmol), 1-cyclopentylcarbonyl-4-piperidone (144 mg, 0.735 mmol) and acetic acid (147 mg, 2.45 mmol) in DCE (1.5 ml) was added sodium triacetoxyborohydride (260 mg, 1.23 mmol). This solution was then heated at 100° C. for 15 minutes in a CEM discover microwave (fixed hold time set to on). The reaction mixture was then quenched with saturated aqueous sodium bicarbonate solution (5 ml) and extraction with ethyl acetate (3×5 ml) followed. The combined organics were concentrated in vacuo and purification by flash chromatography proceeded (eluant: 8:2 hexane:ethyl acetate) to provide the title compound as a transparent oil (82 mg, 43%). 1H NMR (300 MHz, CDCl3): δ 1.16-1.36 (2H, m, 2×CH), 1.47-1.56 (2H, m, 2×CH), 1.59-1.78 (6H, m, 6×CH), 1.93-2.08 (2H, m, 2×CH), 2.76-2.87 (2H, m, 2×CH), 3.07-3.18 (1H, m, CH), 3.43-3.52 (1H, sept, J=3.9 Hz, CH), 3.78-3.89 (1H, bd, J=13.8 Hz, CH), 3.97-4.10 (1H, m, CH), 4.31-4.42 (1H, bd, J=13.5 Hz, NH), 6.55-6.62 (1H, td, J=1.5, 1.2, 1.2, 7.7 Hz, ArH), 6.68-6.71 (1H, dd, J=1.5, 8.1 Hz, ArH), 6.73-6.77 (1H, dd, J=1.5, 8.1 Hz, ArH), 6.79-6.84 (2H, m, ArH), 6.95-7.01 (1H, td, J=1.5, 0.6, 1.5, 7.7 Hz, ArH), 7.16-7.22 ppm (2H, m, ArH). 13C NMR (67.93 MHz, CDCl3): δ 19.5, 19.6, 30.2, 32.2, 33.2, 40.6, 44.1, 49.9, 112.2, 117.2, 118.8, 119.6, 125.3, 127.9, 129.8, 138.9, 143.1, 156.1, 175.4 ppm LCMS: M+H, 421.46 HPLC: 98.41% (3.124 min, isocratic 90% acetonitrile, 10% water at 1 ml/min).

reactant | 2-(4-chlorophenoxy)phenylamine | 0.45 mmol, 100 mg | ClC1=CC=C(OC2=C(C=CC=C2)N)C=C1 | C12H10ClNO
reactant | 1-cyclopentylcarbonyl-4-piperidone | 0.735 mmol, 144 mg | C1(CCCC1)C(=O)N1CCC(CC1)=O | C11H17NO2
reactant | acetic acid | 2.45 mmol, 147 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.23 mmol, 260 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 1.5 ml | ClCCCl | C2H4Cl2
product | {4-[2-(4-chlorophenoxy)phenylamino]-piperidin-1-yl}-cyclopentylmethanone | 82 mg, 43% | ClC1=CC=C(OC2=C(C=CC=C2)NC2CCN(CC2)C(=O)C2CCCC2)C=C1 | C23H27ClN2O2
